US03983128
253 g. [[(1-Ethyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester (0.09 mol.) are dissolved in 770 g. of diphenyl ether. The reaction mixture is heated to 235°-250° (bath temperature) and allowed to react at this temperature for 1-2 hours while the resulting ethanol is continuously distilled off. The last amount of alcohol is removed by means of a water aspirator. The diphenyl ether is separated by distillation with a fractionating column in vacuo. The 1-ethyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester is obtained at b.p. 0.05 115°-120°, yield 195 g. (92%), m.p. 85°-87°. The compound is recrystallized from ligroin (90°-100°), m.p. 87°-89°. Hydrolysis of this product with aqueous sodium hydroxide yields 1-ethyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, m.p. 201°-202°.

reactant | [[(1-Ethyl-5-pyrazolyl)amino]methylene]malonic acid diethyl ester | 0.09 mol | C(C)OC(C(C(=O)OCC)=CNC1=CC=NN1CC)=O | C13H19N3O4
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | C(C)O | C2H6O
product | 1-ethyl-4-hydroxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)O | C11H13N3O3
